US04853469
Preparation of 7,8,9-trifluoro-1-hydroxymethyl-5-oxo-5H-thiazolo[3,2-a]quinoline-4-carboxylic acid [compound (III) in which R is hydrogen atom]
Concd. sulfuric acid (300 ml) was added to ethyl 2-(3-acetoxy-2-oxopropylthio)-6,7,8-trifluoro-4-hydroxyquinoline-3-carboxylate (36.0 g) and the mixture was stirred at room temperature for 45 minutes and then at 85° C. for 19 hours. After adding ice-water (250 g) with cooling, the mixture was stirred at room temperature for 3 hours and the reaction mixture was then poured into ice-water. After precipitated crystal was filtered and washed with water, the resultant was recrystallized from a mixed solvent of chloroform-methanol to give the title compound (14.2 g) as light brown crystals, m.p. 220° C. (dec.).

reactant | ethyl 2-(3-acetoxy-2-oxopropylthio)-6,7,8-trifluoro-4-hydroxyquinoline-3-carboxylate | 36.0 g | C(C)(=O)OCC(CSC1=NC2=C(C(=C(C=C2C(=C1C(=O)OCC)O)F)F)F)=O | C17H14F3NO6S
solvent | sulfuric acid | 300 ml | S(O)(O)(=O)=O | H2O4S
product | 7,8,9-trifluoro-1-hydroxymethyl-5-oxo-5H-thiazolo[3,2-a]quinoline-4-carboxylic acid | 14.2 g | FC=1C=C2C(C(=C3N(C2=C(C1F)F)C(=CS3)CO)C(=O)O)=O | C13H6F3NO4S
